US06159901
Production of 4-methyl-6-[3-(trifluoromethyl)-phenoxy] picolinic acid hydrazide (compound No. II-12)
4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid methyl ester (0.507 g, 0.00163 mol) was dissolved in 10 ml of methanol, and then mixed with hydrazine monohydrate (0.816 g, 0.00163×10 mol). The resultant mixture was refluxed for about 3 hours. The obtained reaction solution was concentrated, and the obtained residues were distributed in ethyl acetate-saturated sodium bicarbonate water. The organic phase separated from the solution was washed with water and then dried with anhydrous sodium sulfate. After distilling off the solvent, the obtained residues were purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methyl-6-[3-(trifluoromethyl)phenoxy] picolinic acid methyl ester | 0.00163 mol, 0.507 g | COC(C1=NC(=CC(=C1)C)OC1=CC(=CC=C1)C(F)(F)F)=O | C15H12F3NO3
reactant | hydrazine monohydrate | 10 mol, 0.816 g | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | 4-methyl-6-[3-(trifluoromethyl)-phenoxy] picolinic acid hydrazide | CC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O2
